US08357693B2
tert-butyl 5-(7-methoxy-6-(2-methoxyethoxy)-2-(3-(2-morpholinoacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate
A mixture of 2-morpholinoacetic acid (0.034 g, 0.24 mmol), DIEA (0.165 mL, 0.94 mmol) and PyBOP® (0.125 g, 0.24 mmol) in CH2Cl2 (1 mL) was stirred at RT for 10 minutes, upon which it was added to a solution of tert-Butyl 5-(2-(3-aminophenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.260 g, 0.47 mmol) in CH2Cl2 (10 mL). the subsequent was stirred at RT for 1 hr upon which further aliquots of 2-morpholinoacetic acid (0.034 g, 0.24 mmol) and PyBOP® (0.125 g, 0.24 mmol) were added. The resulting mixture was stirred at RT overnight upon which the mixture was concentrated in vacuo and taken directly to the next step. HPLC retention time 5.35 mins.

reactant | 2-morpholinoacetic acid | 0.24 mmol, 0.034 g | O1CCN(CC1)CC(=O)O | C6H11NO3
reactant | DIEA | 0.94 mmol, 0.165 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | tert-Butyl 5-(2-(3-aminophenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.47 mmol, 0.260 g | NC=1C=C(C=CC1)C1=NC2=CC(=C(C=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)OCCOC)OC | C30H32N6O5
reactant | 2-morpholinoacetic acid | 0.24 mmol, 0.034 g | O1CCN(CC1)CC(=O)O | C6H11NO3
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-(7-methoxy-6-(2-methoxyethoxy)-2-(3-(2-morpholinoacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | COC1=C(C=C2C(=NC(=NC2=C1)C1=CC(=CC=C1)NC(CN1CCOCC1)=O)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)OCCOC | C36H41N7O7
